US07081454B2
(S)-7-Bromo-2-{4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzimidazole-5-carbaldehyde:
To a solution of (S)-7-Bromo-2-{4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzimidazole-5-carbonitrile (150 mg, 0.31 mmol) in THF (50 mL) was added DIBAL-H (1 M toluene solution, 1.55 mL, 1.55 mmol) at −78° C. The reaction mixture was stirred at −40° C. for 10 h and cooled to −78° C. EtOAc (0.5 mL) was added. The reaction mixture was stirred for 30 min at −78° C. before water (1 mL) was added. The reaction mixture was warmed to room temperature and concentrated. The residue was passed through a small pad of celite. The filtrate was concentrated and purified by prep. HPLC to give the titled compound (67 mg, 43%). 1H NMR (400 MHz, CD3OD) δ 9.45 (1H, s), 7.62 (1H, s), 7.56 (1H, narrow d, J=1.6 Hz), 7.44 (1H, narrow d, J=1.0 Hz), 7.32–7.42 (2H, m), 7.24–7.30 (3H, m), 6.24 (1H, d, J=7.6 Hz), 5.01 (1H, m), 3.65–3.76 (2H, m). LCMS (M+H)+ m/z 487 (t=1.76 min.).

reactant | (S)-7-Bromo-2-{4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzimidazole-5-carbonitrile | 0.31 mmol, 150 mg | BrC1=CC(=CC2=C1N=C(N2)C=2C(NC=CC2NC[C@@H](O)C2=CC(=CC=C2)Cl)=O)C#N | C21H15BrClN5O2
reactant | DIBAL-H | 1.55 mmol, 1 M, 1.55 mL | CC(C)C[AlH]CC(C)C
reactant | EtOAc | 0.5 mL | CCOC(=O)C | C4H8O2
reactant | water | 1 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-7-Bromo-2-{4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzimidazole-5-carbaldehyde | 67 mg, 43% | BrC1=CC(=CC2=C1N=C(N2)C=2C(NC=CC2NC[C@@H](O)C2=CC(=CC=C2)Cl)=O)C=O | C21H16BrClN4O3
